US06458780B1
A 10% hydrochloric acid/methanol solution (1 ml) and 120 mg of 10%Pd-C were added to a solution of 0.44 g of 7-azidoacetylimidazo[5,1-b]thiazole in 50 ml of methanol and 50 ml of THF. The atmosphere in the reactor was replaced with hydrogen. The system was stirred at room temperature for 2 hr. The reaction mixture was filtered. The solvent was removed by distillation. To the residue were added 10 ml of DMF, 0.39 g of 4-nitrophenyl formate, and 0.66 ml of triethylamine. The mixture was stirred at room temperature for 30 min. Dichloromethane was added to the reaction solution. The mixture was washed with water and saturated brine in that order, and then dried over anhydrous magnesium sulfate. The solvent was removed by distillation. The residue was purified by column chromatography on silica gel (dichloromethane:methanol=10:1) to give 0.24 g of 7-formylaminoacetylimidazo[5,1-b]thiazole.

reactant | hydrochloric acid methanol | 1 ml | Cl.CO
reactant | 7-azidoacetylimidazo[5,1-b]thiazole | 0.44 g | N(=[N+]=[N-])CC(=O)C=1N=CN2C1SC=C2 | C7H5N5OS
reactant | hydrogen | [H][H] | H2
solvent | methanol | 50 ml | CO | CH4O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
catalyst | Pd-C | [Pd] | Pd
product | 7-formylaminoacetylimidazo[5,1-b]thiazole | 0.24 g | C(=O)NCC(=O)C=1N=CN2C1SC=C2 | C8H7N3O2S
